US08119669B2
A. 4-(4-Formyl-2-methoxy-phenoxy)-3-trifluoromethyl-benzonitrile
A solution of vanillin (1.65 g, 10.86 mmol) and 4-fluoro-3-trifluoromethyl-benzonitrile (10.26 mmol) in DMF (15 mL) was treated with K2CO3 (2.83 g, 21.72 mmol), and the mixture was heated in an oil bath at 80° C. for 12 h. The reaction was cooled to RT and partitioned between EtOAc and H2O. The organic phase was washed with water (3×), dried over Na2SO4 and concentrated in vacuo. Silica gel chromtagraphy (EtOAc/hexanes) afforded the title compound. 1H NMR (400 Hz, CDCl3) δ 10.00 (s, 1H), 8.00 (m, 1H), 7.68 (dd, 1H), 7.58-7.53 (m, 2H), 7.29 (d, 1H), 6.75 (d, 1H), 3.83 (s, 3H); LC/MS (m/z) [M+1]+ 322.1 (calculated for C16H11F3NO3, 322.06).

reactant | vanillin | 10.86 mmol, 1.65 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | 4-fluoro-3-trifluoromethyl-benzonitrile | 10.26 mmol | FC1=C(C=C(C#N)C=C1)C(F)(F)F | C8H3F4N
reactant | K2CO3 | 21.72 mmol, 2.83 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 4-(4-Formyl-2-methoxy-phenoxy)-3-trifluoromethyl-benzonitrile | C(=O)C1=CC(=C(OC2=C(C=C(C#N)C=C2)C(F)(F)F)C=C1)OC | C16H10F3NO3
